US07101630B2
In a reactor equipped with a stirrer and a reflux condenser, 2.0 g (0.0059 mol) of m-tolyl(p-bromophenyl)phenylamine, 0.18 g (0.00015 mol) of tetrakistriphenylphosphine palladium (0), 0.005 g of 2,6-dibutylhydroxytoluene and 20 ml of toluene were added and dissolved, and then 2.1 ml (0.0071 mol) of tributyl(vinyl)tin was added to the mixture in an argon gas atmosphere at room temperature. The mixture was heated to 100° C. and continuously stirred for 76 hours. After air cooling, the solvent was distilled off, and the residue was purified by silica gel column chromatography (developing solvent: hexane) to yield 1.4 g of m-tolyl(p-vinylphenyl)phenylamine as a colorless liquid at a yield of 81%.

reactant | m-tolyl(p-bromophenyl)phenylamine | 0.0059 mol, 2.0 g | C1(=C(C=CC=C1)C=1C=C(C=CC1)NC1=CC=C(C=C1)Br)C | C19H16BrN
reactant | tributyl(vinyl)tin | 0.0071 mol, 2.1 ml | C(CCC)[Sn](C=C)(CCCC)CCCC
catalyst | 2,6-dibutylhydroxytoluene | 0.005 g | C(CCC)C1=C(C(=CC=C1O)CCCC)C | C15H24O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | m-tolyl(p-vinylphenyl)phenylamine | 1.4 g, yield of 81% | C1(=C(C=CC=C1)C=1C=C(C=CC1)NC1=CC=C(C=C1)C=C)C | C21H19N
